US05006520
To a mixture of 6 g of 3-[4-(2-dimethylaminoethylamino)phenyl]-1H-pyrazolo[3,4-b]pyridine, 5 g of potassium carbonate and 60 ml of dimethylformamide was added dropwise 4.6 g of ethyl chloroacetate. The mixture was stirred at 50° C. for 4 hours. After the solvent was distilled off, the residue was dissolved in ethyl acetate and washed with water. After ethyl acetate was distilled off, the residue was purified by column chromatography to give ethyl 3-[4-(2-dimethylaminoethylamino)phenyl]-1H-pyrazolo[3,4-b]pyridin-1-ylacetate in an oily form.

reactant | 3-[4-(2-dimethylaminoethylamino)phenyl]-1H-pyrazolo[3,4-b]pyridine | 6 g | CN(CCNC1=CC=C(C=C1)C1=NNC2=NC=CC=C21)C | C16H19N5
reactant | potassium carbonate | 5 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl chloroacetate | 4.6 g | ClCC(=O)OCC | C4H7ClO2
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | ethyl 3-[4-(2-dimethylaminoethylamino)phenyl]-1H-pyrazolo[3,4-b]pyridin-1-ylacetate | CN(CCNC1=CC=C(C=C1)C1=NN(C2=NC=CC=C21)CC(=O)OCC)C | C20H25N5O2
